US07741393B2
Into a four-necked flask (vi) was charged 3.1 g of magnesium and 20 ml of tetrahydrofuran under nitrogen flow. Into the mixture was dropped mixed liquid of 25 g of 1-bromo-2,4-dimethoxybenzene and 80 ml of tetrahydrofuran while stirring. After completion of dropping, the mixture was thermally insulated for 2 hours under reflux. Into a four-necked flask (vii) was charged 9.5 g of triethoxysilane and 40 ml of tetrahydrofuran. Into this mixture was dropped under ice cooling the above-mentioned reaction solution thermally insulated for 2 hours under reflux, and after completion of dropping, the mixture was stirred for 2 hours at 80° C. The resultant reaction mixture was washed with 100 ml of ammonium chloride water and saturated saline sequentially. The organic phase after washing was dried over anhydrous magnesium sulfate. Anhydrous magnesium sulfate was filtrated off, then, to the resultant organic phase was added silica gel for decoloration. The organic phase after decoloration was concentrated, to obtain 16.7 g of bis(2,4-dimethoxyphenyl)ethoxysilane. To the above-mentioned bis(2,4-dimethoxyphenyl)ethoxysilane was added at 0° C. 50 ml tetrahydrofuran and 50 ml of 1N-hydrochloric acid. Then, 100 g of toluene was added and extraction was performed. The organic phase was washed with saturated saline twice. To the organic phase after washing was anhydrous magnesium sulfate and dried. Anhydrous magnesium sulfate was filtrated, then, the filtrate was concentrated and a solvent was distilled off. The residue after solvent distillation was thermally insulated at 155° C. for 2 hours, then, further thermally insulated at 160° C. for 5 hours. Thereafter, a component of low boiling point was distilled off at 230° C. To the reaction mixture after distilling off a component of low boiling point was added a mixed solution of 2-propanol/toluene to cause deposition of a crystal, obtaining 5.3 g of compound 4.

reactant | magnesium | 3.1 g | [Mg] | Mg
reactant | 1-bromo-2,4-dimethoxybenzene | 25 g | BrC1=C(C=C(C=C1)OC)OC | C8H9BrO2
reactant | triethoxysilane | 9.5 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | bis(2,4-dimethoxyphenyl)ethoxysilane | 16.7 g | COC1=C(C=CC(=C1)OC)C(CO[SiH3])C1=C(C=C(C=C1)OC)OC | C18H24O5Si
